US06380218B1
N-[2-(3-Cyano-phenoxy)-pyridin-3-yl]-2-[4-(1-hydroxy-1methyl-ethyl)-phenyl]-acetamide
To a solution of 2-(4-Acetyl-phenyl)-N-[2-(3-cyano-phenoxy)-pyridin-3-yl]-acetamide (0.360 grams, 0.96 mmole) in tetrahydrofuran (15 ml) at −78° C. 1.0 M methyl lithium (2.03 ml, 2.03 mmole) in tetrahydrofuran (20 ml) was added and stirred at −78° C. for 1 hour. The reaction was quenched with water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated to give a white solid which was purified by chromatography on silica eluting with 40% ethyl acetate/hexane. Recrystalization from ethyl acetate/hexane gave white crystals (0.115 g). M.P. 97-99° C.; Anal. calcd. for C23H21N3O3: C, 71.30; H, 5.46; N, 10.85. Found: C, 70.96; H, 5.30; N, 10.69.

reactant | 2-(4-Acetyl-phenyl)-N-[2-(3-cyano-phenoxy)-pyridin-3-yl]-acetamide | 0.96 mmole, 0.360 grams | C(C)(=O)C1=CC=C(C=C1)CC(=O)NC=1C(=NC=CC1)OC1=CC(=CC=C1)C#N | C22H17N3O3
reactant | methyl lithium | 2.03 mmole, 1.0 M, 2.03 ml | C[Li]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[2-(3-Cyano-phenoxy)-pyridin-3-yl]-2-[4-(1-hydroxy-1methyl-ethyl)-phenyl]-acetamide | 0.115 g | C(#N)C=1C=C(OC2=NC=CC=C2NC(CC2=CC=C(C=C2)C(C)(C)O)=O)C=CC1 | C23H21N3O3
